US08648066B2
(2R)—N-({6,6-dimethyl-4-[7-(2-methyl-1H-imidazo[4,5-b]pyridin-6-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]-5,6,7,8-tetrahydroquinazolin-2-yl}methyl)butan-2-amine.
Prepared as a trifluoroacetate salt according to the method of example 6 by using 2-methylpropyl 2-methyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate and (R)-benzyl sec-butyl((4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-2-yl)methyl)carbamate (reagent preparation 17) in step 3 followed by Cbz deprotection. 1H NMR (400 MHz, DMSO-d6) δ 8.69 (br s, 3H), 8.24 (br s, 1H), 7.80 (s, 1H), 7.62 (d, 1H), 7.09 (d, 1H), 4.79 (s, 2H), 4.43-4.36 (m, 2H), 4.17-4.11 (m, 2H), 4.00-3.94 (m, 2H), 3.15 (br s, 1H), 2.75 (t, 2H), 2.67 (s, 2H), 2.50 (s, 2H, buried), 1.79-1.66 (m, 1H), 1.62 (t, 2H), 1.46-1.33 (m, 1H), 1.17 (d, 3H), 0.89-0.78 (m, 9H); MS (EI) for C31H39N7O: 526 (MH+).

reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | 2-methylpropyl 2-methyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate | CC=1N(C=2C(=NC=C(C2)C=2C=CC3=C(CNCCO3)C2)N1)C(=O)OCC(C)C | C21H24N4O3
reactant | (R)-benzyl sec-butyl((4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-2-yl)methyl)carbamate | [C@@H](C)(CC)N(C(OCC1=CC=CC=C1)=O)CC1=NC=2CCC(CC2C(=N1)Cl)(C)C | C23H30ClN3O2
product | (2R)—N-({6,6-dimethyl-4-[7-(2-methyl-1H-imidazo[4,5-b]pyridin-6-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]-5,6,7,8-tetrahydroquinazolin-2-yl}methyl)butan-2-amine | CC1(CC=2C(=NC(=NC2CC1)CN[C@H](C)CC)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)N=C(N1)C)C | C31H39N7O
